US06444685B1
N-(3,4-Dimethoxy-phenyl)-4-{4-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-piperidin-1-yl}-benzenesulfonamide
The title compound was prepared from 4-((2S)-3-Amino-2-hydroxy-propoxy)-phenol and Reference Example 73, N-(3,4-dimethoxy-phenyl)-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide, according to the procedure of Example 1 as an off-white solid; mp 101-106° C.; 1H NMR (300 MHz, DMSO-d6) δ 1.15-1.30 (m, 2H), 1.70-1.90 (m, 2H), 2.50-2.90 (m, 5H), 3.61 (s, 3H) 3.63 (s, 3H), 3.60-3.90 (m, 5H), 6.45 (dd, 1H), 6.60-6.80 (m, 8H), 6.90 (d, 1H), 7.45 (d, 1H); MS (ES) m/z: 557.9 (MH+); HRMS Calcd. for C28H36N3O7S (MH+): 558.2274. Found: 558.2293.

reactant | 4-((2S)-3-Amino-2-hydroxy-propoxy)-phenol | NC[C@@H](COC1=CC=C(C=C1)O)O | C9H13NO3
reactant | N-(3,4-dimethoxy-phenyl)-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide | COC=1C=C(C=CC1OC)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C19H22N2O5S
product | N-(3,4-Dimethoxy-phenyl)-4-{4-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-piperidin-1-yl}-benzenesulfonamide | COC=1C=C(C=CC1OC)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](COC1=CC=C(C=C1)O)O | C28H35N3O7S
